US06271225B1
In the same manner as in Example 77 and using 1,2,3,4-tetrahydro-8-methyl-[1]benzothieno[2,3-b][1,5]benzoxazepin-12(11H)-one (1.87 g), dichlorodicyano-p-benzoquinone (3.1 g) and benzene (55 ml), 8-methyl-[1]benzothieno[2,3-b][1,5]benzoxazepin-12(11H)-one (1.5 g) was obtained.

reactant | 1,2,3,4-tetrahydro-8-methyl-[1]benzothieno[2,3-b][1,5]benzoxazepin-12(11H)-one | 1.87 g | CC1=CC2=C(NC(C3=C(O2)SC2=C3CCCC2)=O)C=C1 | C16H15NO2S
reactant | dichlorodicyano-p-benzoquinone | 3.1 g | ClC1=C(C(C(=C(C1=O)C#N)C#N)=O)Cl | C8Cl2N2O2
solvent | benzene | 55 ml | C1=CC=CC=C1 | C6H6
product | 8-methyl-[1]benzothieno[2,3-b][1,5]benzoxazepin-12(11H)-one | 1.5 g | CC1=CC2=C(NC(C3=C(O2)SC2=C3C=CC=C2)=O)C=C1 | C16H11NO2S
